US04808595
Step C: Preparation of 6-Methylfuro[3,2-c]pyridine
To a solution of 4-chloro-6-methylfuro[3,2-c]pyridine (12.98 g, 0.0776 mol) in glacial acetic acid (160 ml) under a nitrogen atmosphere was added zinc powder (7.0 g, 0.107 mol.). This mixture was heated at 110° C. for 2.5 hours and then filtered hot to remove zinc. The acetic acid solution was evaporated and the residue dissolved in water and made strongly basic by addition of sodium hydroxide. The zinc salts were filtered and washed thoroughly with methylene chloride. The aqueous filtrate was extracted with methylene chloride and the combined washings were dried over anhydrous sodium sulfate, filtered through a charcoal pad and the solvent evaporated to give 9.5 g (87% yield) of pure product, mp: 55°-56° C.

reactant | 4-chloro-6-methylfuro[3,2-c]pyridine | 0.0776 mol, 12.98 g | ClC1=NC(=CC2=C1C=CO2)C | C8H6ClNO
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.107 mol, 7.0 g | [Zn] | Zn
product | 6-Methylfuro[3,2-c]pyridine | 9.5 g, 87% yield | CC1=CC2=C(C=N1)C=CO2 | C8H7NO
